US04861769
To a suspension of benzhydryl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(5,6-dioxo-4-methyl-1,4,5,6-tetrahydro-1,2,4-triazin-3-yl)thiomethyl-3-cephem-4-carboxylate (syn isomer) (1.10 g) in a mixture of methanol (7.5 ml) and tetrahydrofuran (4 ml) was added concentrated hydrochloric acid (0.44 ml) and the mixture was stirred at 35° C. for an hour. The mixture was poured into a mixture of ethyl acetate (100 ml) and ice-water (100 ml) and adjusted to pH 7 with saturated aqueous solution of sodium bicarbonate. The organic layer was separated, washed with saturated aqueous solution of sodium chloride and water successively and concentrated in vacuo. The residue was subjected to column chromatography on silica gel (30 g) using a mixture of chloroform and methanol (30:1 V/V) as an eluent to give benzhydryl 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-(5,6-dioxo-4-methyl-1,4,5,6-tetrahydro-1,2,4-triazin-3-yl)thiomethyl-3-cephem-4-carboxylate (syn isomer) (356 mg).

reactant | benzhydryl 7β-[2-cyclopropyloxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-(5,6-dioxo-4-methyl-1,4,5,6-tetrahydro-1,2,4-triazin-3-yl)thiomethyl-3-cephem-4-carboxylate | 1.10 g | C1(CC1)ON=C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NNC(C(N2C)=O)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C34H30N8O8S3
reactant | hydrochloric acid | 0.44 ml | Cl | ClH
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 7.5 ml | CO | CH4O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | benzhydryl 7β-[2-(2-aminothiazol-4-yl)-2-(cyclopropyloxyimino)acetamido]-3-(5,6-dioxo-4-methyl-1,4,5,6-tetrahydro-1,2,4-triazin-3-yl)thiomethyl-3-cephem-4-carboxylate | 356 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CSC2=NNC(C(N2C)=O)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC1CC1 | C33H30N8O7S3
